US09079866B2
4-(2-Bromo-5-(trifluoromethyl)benzyl)morpholine
2-Bromo-5-(trifluoromethyl)benzaldehyde (266 mg, 1.05 mmol) and morpholine (0.10 mL, 1.2 mmol) were dissolved in DCM (2 mL), stirred for 20 minutes, and then treated with NaBH4 (79 mg, 2.1 mmol). The reaction was stirred overnight at rt, after which time, the reaction was quenched by the slow addition of water (10 mL). The aqueous layer was further extracted with DCM (3×10 mL), dried over sodium sulfate, filtered, and concentrated to dryness. The crude product was purified by FCC to provide the title compound. 1H NMR (500 MHz, CDCl3) δ 7.77 (s, 1H), 7.67 (d, J=8.3, 1H), 7.37 (d, J=8.3, 1H), 3.80-3.69 (m, 4H), 3.63 (d, J=1.7, 2H), 2.59-2.49 (m, 4H).

reactant | 2-Bromo-5-(trifluoromethyl)benzaldehyde | 1.05 mmol, 266 mg | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | morpholine | 1.2 mmol, 0.10 mL | N1CCOCC1 | C4H9NO
reactant | NaBH4 | 2.1 mmol, 79 mg | [BH4-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Bromo-5-(trifluoromethyl)benzyl)morpholine | BrC1=C(CN2CCOCC2)C=C(C=C1)C(F)(F)F | C12H13BrF3NO
